US07989463B2
Step (v): Synthesis of 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid
A solution of sodium hydroxide (4.14 g, 100 mmol) in water (100 mL) was added to a solution of 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid methyl ester (7.0 g, 17.2 mmol) in MeOH (100 mL) and the mixture was heated at 90° C. for 8 hours. After evaporation of MeOH under reduced pressure, the mixture was cooled to a temperature in the range of 15° C. to 40° C., and acidified with hydrochloric acid to adjust pH to 3-4. The precipitate formed after standing at a temperature in the range of 15° C. to 40° C. was filtered and washed several times with water, and dried under vacuum. The solid was recrystallized from MeOH to afford the title compound as a white powder (6.3 g, 94% yield).

reactant | sodium hydroxide | 100 mmol, 4.14 g | [OH-].[Na+]
reactant | 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid methyl ester | 17.2 mmol, 7.0 g | COC(=O)C1(CCCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)C2CCCC2 | C25H31N3O2
solvent | water | 100 mL | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
product | 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid | 6.3 g, 94% yield | C1(CCCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCCC1)C(=O)O)CCC2 | C24H29N3O2
